US07056917B2
N-((E)-3-{8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H -pyrido[1,2-a]pyrimidin-3-yl}-2-propenoyl)methanesulfonamide
(E)-3-{8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4-H-pyrido -[1,2-a]pyrimidin-3-yl}-2-propenoic acid (24 mg) was dissolved in dimethylformamide (2 ml), added with methanesulfonamide (15 mg), dimethylaminopyridine (20 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (31 mg), and then the mixture was stirred at room temperature for 24 hours. The reaction solution was added with ethyl acetate and hexane, washed with 0.2 M hydrochloric acid, and dried over sodium over sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (14 mg) as yellow powder.

reactant | (E)-3-{8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4-H-pyrido -[1,2-a]pyrimidin-3-yl}-2-propenoic acid | 24 mg | C(C)(C)C=1N=C(SC1)CCC1=CC=2N(C(C(=C(N2)N2CCOCC2)/C=C/C(=O)O)=O)C=C1 | C23H26N4O4S
reactant | methanesulfonamide | 15 mg | CS(=O)(=O)N | CH5NO2S
reactant | dimethylaminopyridine | 20 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 31 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-((E)-3-{8-[2-(4-Isopropyl-1,3-thiazol-2-yl)ethyl]-2-morpholino-4-oxo-4H -pyrido[1,2-a]pyrimidin-3-yl}-2-propenoyl)methanesulfonamide | 14 mg | C(C)(C)C=1N=C(SC1)CCC1=CC=2N(C(C(=C(N2)N2CCOCC2)/C=C/C(=O)NS(=O)(=O)C)=O)C=C1 | C24H29N5O5S2
